US07402595B2
6-bromo-1-oxo-4-phenyl-2-(4-[1,2,3]thiadiazole-4-ylbenzyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a solution of 6-bromo-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid methyl ester (359 mg) in methanol (20 ml) were added 4-[1,2,3]thiadiazol-4-ylbenzylamine (956 mg) and triethylamine (1.4 ml) and the mixture was stirred at room temperature for 72 hrs. The solvent was evaporated under reduced pressure, and the residue was partitioned between 1N hydrochloric acid and ethyl acetate. The ethyl acetate layer was washed with saturated brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure, 4N hydrochloric acid ethyl acetate solution (5 ml) was added to the obtained residue, and the mixture was stirred at room temperature for 10 hrs. The solvent was evaporated under reduced pressure, water was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium hydrogen carbonate solution and saturated brine and dried by adding sodium sulfate. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1→1/1) to give the title compound (80 mg, 15%).

reactant | 6-bromo-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid methyl ester | 359 mg | COC(=O)C=1OC(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O | C17H11BrO4
reactant | 4-[1,2,3]thiadiazol-4-ylbenzylamine | 956 mg | S1N=NC(=C1)C1=CC=C(CN)C=C1 | C9H9N3S
reactant | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 20 ml | CO | CH4O
product | 6-bromo-1-oxo-4-phenyl-2-(4-[1,2,3]thiadiazole-4-ylbenzyl)-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 80 mg, 15% | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)C=1N=NSC1 | C26H18BrN3O3S
